US07704995B2
5-Bromo-2,3-dihydro-1H-inden-1-one (1.68 g, 7.99 mmol) was dissolved in DMF and treated with triethylamine (1.61 g, 15.98 mmol), copper iodide (152 mg, 0.79 mmol) and prop-2-yn-1-ol (2.24 g, 39.96 mmol) in the presence of Pd(PPh3)4 (462 mg, 0.39 mmol) at ambient temperature. After being refluxed for 16 h, the reaction mixture was extracted with ethyl acetate (100 mL×3) and washed with brine. The combined organic layers were dried over MgSO4. Solvent removal under vacuum gave crude tan oil. Purification by preparative thin-layer chromatography afforded 5-(hydroxyprop-1-yn-1-yl)-2,3-dihydro-1H-indene-1-one (1.06 g, 72% yield): 1H NMR (400 MHz, CD3OD): δ 7.63 (d, 1H), 7.59 (s, 1H), 7.42 (d, 1H), 4.45 (s, 2H), 3.18 (m, 2H), 2.69 (m, 2H); MS (EI) for C12H10O2: 187.20 (MH+).

reactant | 5-Bromo-2,3-dihydro-1H-inden-1-one | 7.99 mmol, 1.68 g | BrC=1C=C2CCC(C2=CC1)=O | C9H7BrO
reactant | triethylamine | 15.98 mmol, 1.61 g | C(C)N(CC)CC | C6H15N
reactant | prop-2-yn-1-ol | 39.96 mmol, 2.24 g | C(C#C)O | C3H4O
solvent | DMF | CN(C)C=O | C3H7NO
catalyst | copper iodide | 0.79 mmol, 152 mg | [Cu](I)I
catalyst | Pd(PPh3)4 | 0.39 mmol, 462 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(hydroxyprop-1-yn-1-yl)-2,3-dihydro-1H-indene-1-one | 1.06 g, 72% yield | OCC#CC=1C=C2CCC(C2=CC1)=O | C12H10O2
